US04918064
4-(Diethyl phosphonomethyl)benzyl alcohol
4-(Diethyl phosphonomethyl)benzoic acid (66 mmol) was suspended in anhydrous THF (75 mL) under a nitrogen atmosphere. The reaction was cooled in an ice bath while diborane 1M in THF (72.6 mmol ) was added dropwise to the acid. Once the addition was complete the reaction was allowed to gradually warm to room temperature over several hours. The reaction was quenched by the careful addition of H2O (50 mL), then most of the THF was removed on a rotatory evaporator. The residue was partitioned between dichloromethane (100 mL) and H2O (100 mL). The layers were separated and the aqueous later extracted a second time with dichloromethane (100 mL). The combined organic layers were washed with H2O (100 mL), dried (MgSO4), and concentrated to give the product as a clear oil.

reactant | 4-(Diethyl phosphonomethyl)benzoic acid | 66 mmol | C(C)C(C1=CC=C(C(=O)O)C=C1)(P(=O)(O)O)CC | C12H17O5P
reactant | diborane | 1M | B#B | B2
solvent | THF | 75 mL | C1CCOC1 | C4H8O
solvent | THF | 72.6 mmol | C1CCOC1 | C4H8O
product | 4-(Diethyl phosphonomethyl)benzyl alcohol | C(C)C(C1=CC=C(CO)C=C1)(P(=O)(O)O)CC | C12H19O4P
